US06326359B1
(2R,3R,4S,5R)-2-{2-{2-[(1-Benzhydryl-3-azetidinyl)amino]ethyl}-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl}-5-(methoxymethyl)tetrahydro-3,4-furandiol
The title compound was prepared by a similar method to example 38 using 2-{2-[(1-benzhydryl-3-azetidinyl)amino]ethyl}-9-[(2R,3R,4R,5R)-3,4-bis{[tert-butyl(dimethyl)silyl]oxy}-5-(methoxymethyl)tetrahydro-2-furanyl]-N-(2,2-diphenylethyl)-9H-purin-6-amine (130 mg, 0.14 mmol) (preparation 38) and a 1 molar solution of tetra-n-butylammonium fluoride in tetrahydrofuran (0.4 ml, 0.4 mmol). The compound was purified by column chromatography on silica gel eluting with a solvent gradient of dichloromethane:methanol:ammonia (95:5:0.5) increasing in polarity to (90:10:1) to give the title compound (70 mg) as a foam. MS: 726 (MH+).

reactant | 2-{2-[(1-benzhydryl-3-azetidinyl)amino]ethyl}-9-[(2R,3R,4R,5R)-3,4-bis{[tert-butyl(dimethyl)silyl]oxy}-5-(methoxymethyl)tetrahydro-2-furanyl]-N-(2,2-diphenylethyl)-9H-purin-6-amine | 0.14 mmol, 130 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)NCCC1=NC(=C2N=CN(C2=N1)[C@@H]1O[C@@H]([C@H]([C@H]1O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C)COC)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C55H75N7O4Si2
reactant | tetra-n-butylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | tetrahydrofuran | 0.4 mmol, 0.4 ml | O1CCCC1 | C4H8O
product | (2R,3R,4S,5R)-2-{2-{2-[(1-Benzhydryl-3-azetidinyl)amino]ethyl}-6-[(2,2-diphenylethyl)amino]-9H-purin-9-yl}-5-(methoxymethyl)tetrahydro-3,4-furandiol | 70 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)NCCC1=NC(=C2N=CN(C2=N1)[C@@H]1O[C@@H]([C@H]([C@H]1O)O)COC)NCC(C1=CC=CC=C1)C1=CC=CC=C1 | C43H47N7O4
